US09102625B2
To a solution of ethyl 5,6-dichloro-4-(3-fluorobenzylamino)nicotinate (260 mg, 0.76 mmol) in DMF (1 mL) was added HCONH2 (0.272 mL, 6.84 mmol) and NaOEt (21% in EtOH, 0.425 mL, 1.14 mmol). After stirring at room temperature for 30 min, the mixture was added water, and the precipitate was collected by filtration to give 5,6-dichloro-4-(3-fluorobenzylamino)nicotinamide (170 mg).

reactant | ethyl 5,6-dichloro-4-(3-fluorobenzylamino)nicotinate | 0.76 mmol, 260 mg | ClC=1C(=NC=C(C(=O)OCC)C1NCC1=CC(=CC=C1)F)Cl | C15H13Cl2FN2O2
reactant | HCONH2 | 6.84 mmol, 0.272 mL | C(=O)N | CH3NO
reactant | NaOEt | 1.14 mmol, 0.425 mL | CC[O-].[Na+]
reactant | water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5,6-dichloro-4-(3-fluorobenzylamino)nicotinamide | 170 mg | ClC=1C(=NC=C(C(=O)N)C1NCC1=CC(=CC=C1)F)Cl | C13H10Cl2FN3O
